US04816459
A mixture of l.00 g (2.65 mmoles) of 9-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)methyl]-3-cyano-4H-pyrido[1,2-a]pyrimidin-4-one, 0.97 g (7.27 mmoles) of aluminum chloride, 1.43 g (21.99 mmoles) of sodium azide and 20 ml of tetrahydrofuran was heated under reflux for 2 hours. After cooling, the resulting reaction solution was diluted with ice water and then acidified with dilute hydrochloric acid. The precipitate so formed was collected by filtration and recrystallized from dimethyformamide to obtain 0.72 g (65% yield) of 9-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)methyl]-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]-pyrimidin-4-one in the form of white crystals. These crystals had a melting point of 269°-271° C. (dec.).

reactant | 9-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)methyl]-3-cyano-4H-pyrido[1,2-a]pyrimidin-4-one | 2.65 mmoles | C(C)(=O)C1=C(C(=C(OCC2=CC=CN3C2=NC=C(C3=O)C#N)C=C1)CCC)O | C21H19N3O4
reactant | aluminum chloride | 7.27 mmoles, 0.97 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium azide | 21.99 mmoles, 1.43 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 9-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)methyl]-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]-pyrimidin-4-one | 0.72 g, 65% yield | C(C)(=O)C1=C(C(=C(OCC2=CC=CN3C2=NC=C(C3=O)C3=NN=NN3)C=C1)CCC)O | C21H20N6O4
